US06235771B1
In DMF (120 ml) was dissolved 2-bromophenol (12 g). To the mixture was added potassium carbonate (12.5 g) and then was added 2-bromoethylethyl ether (9.1 ml), and the mixture was stirred at 70° C. for 4 hours. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=12/1) to give 1-bromo-2-(2-ethoxyethoxy)benzene (14.8 g).

reactant | 2-bromophenol | 12 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | potassium carbonate | 12.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethylethyl ether | 9.1 ml | BrCCOCC | C4H9BrO
reactant | water | O | H2O
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
product | 1-bromo-2-(2-ethoxyethoxy)benzene | 14.8 g | BrC1=C(C=CC=C1)OCCOCC | C10H13BrO2
